US06355642B1
6-Hydroxy-2a-[4-(2-methoxyphenylpiperazinyl)butyl]-2a,3,4.5-tetrahydrobenz[cd]indole-2(1H)-one
A methanol solution of 121 mg (0.25 mmol) of 6-acetoxy-2a-[4-(2-methoxyphenylpiperazinyl)butyl]-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H) -one was mixed with 30 mg of methanol solution of sodium methoxide and the mixture was stirred at a room temperature for 3 hours. By evaporating the solvent under a reduced pressure and recrystallizing the resulting residue from chloroform-ethyl acetate, the title compound was obtained quantitatively.

reactant | 6-acetoxy-2a-[4-(2-methoxyphenylpiperazinyl)butyl]-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H) -one | 0.25 mmol, 121 mg | C(C)(=O)OC1=C2C=3C(C(NC3C=C1)=O)(CCC2)CCCCN2C(CNCC2)C2=C(C=CC=C2)OC | C28H35N3O4
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 30 mg | CO | CH4O
product | 6-Hydroxy-2a-[4-(2-methoxyphenylpiperazinyl)butyl]-2a,3,4.5-tetrahydrobenz[cd]indole-2(1H)-one | OC1=C2C=3C(C(NC3C=C1)=O)(CCC2)CCCCN2C(CNCC2)C2=C(C=CC=C2)OC | C26H33N3O3
